US07547691B2
An aqueous 2N Na2CO3 solution (36 mL) is added dropwise to a stirred solution of (4-carboxybenzo[b]thiophen-2-yl)boronic acid (3.63 g, 18.8 mmol) and 2,4-dichloro-5-fluoropyrimidine (3.00 g, 18.0 mmol) in ethyleneglycol dimethyl ether (50 mL) at room temperature under nitrogen atmosphere. Upon the completion of addition, dichlorobis(triphenylphosphine)palladium(II) (0.22 g, 3% mol) is added in one portion, then the reaction mixture is heated at 100° C. overnight. The mixture is cooled to 10° C., then 37% HCl (10 mL) is added in portions to form a suspension. After filtration and washing with water, the solid is dried under vacuum. The dry solid is suspended in 30 mL of dichloromethane/ethanol (10:1), sonicated, filtered, and dried again to provide 2-(2-chloro-5-fluoropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid (2.95 g, 48% yield).

reactant | Na2CO3 | 2N, 36 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | (4-carboxybenzo[b]thiophen-2-yl)boronic acid | 18.8 mmol, 3.63 g | C(=O)(O)C1=CC=CC=2SC(=CC21)B(O)O | C9H7BO4S
reactant | 2,4-dichloro-5-fluoropyrimidine | 18.0 mmol, 3.00 g | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | HCl | 10 mL | Cl | ClH
solvent | ethyleneglycol dimethyl ether | 50 mL | COCCOC | C4H10O2
catalyst | dichlorobis(triphenylphosphine)palladium(II) | 0.22 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-(2-chloro-5-fluoropyrimidin-4-yl)-benzo[b]thiophene-4-carboxylic acid | 2.95 g, 48% yield | ClC1=NC=C(C(=N1)C1=CC2=C(S1)C=CC=C2C(=O)O)F | C13H6ClFN2O2S
